US07129239B2
Preparation of Intermediate C-[9-(4-Chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purin-6-yl]-methylamine (I-(16A-1)b)
9-(4-Chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine-6-carbonitrile I-(16A-1)a (110 mg, 0.27 mmol) was dissolved in methylene chloride (0.9 ml) and the solution cooled to −78° C. Diisobutyl aluminum hydride (1 M in methylene chloride; 590 μl, 0.59 mmol) was added dropwise to the reaction mixture and stirring continued at −78° C. until TLC indicated the starting material had been consumed. Methanol (100 μl) was added to the mixture to quench the reaction and the cooling bath was removed. The reaction mixture was extracted with ethyl acetate from 1 M HCl. The organic layer was back-extracted with 1M HCl and the aqueous layers combined. The aqueous layers were then brought to a basic pH with sodium hydroxide and extracted with ethyl acetate. The organic layers were combined, dried (Na2SO4), filtered, and evaporated to dryness to afford the desired compound I-(16A-1)b: +ESI MS (M+1) 404.4; 1H NMR (400 MHz, CD3OD) δ 8.92 (s, 1H), 7.69 (d, J=8.3 Hz, 1H), 7.57 (d, J=1.7 Hz, 1H), 7.53–7.43 (m, 3H), 7.36 (d, J=8.3 Hz, 2H), 4.40 (s, 2H).

reactant | 9-(4-Chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purine-6-carbonitrile | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=C(C=C1)Cl)Cl)C#N | C18H8Cl3N5
reactant | Diisobutyl aluminum hydride | 0.59 mmol, 1 M, 590 μl | [H-].C(C(C)C)[Al+]CC(C)C
solvent | methylene chloride | 0.9 ml | C(Cl)Cl | CH2Cl2
product | C-[9-(4-Chlorophenyl)-8-(2,4-dichlorophenyl)-9H-purin-6-yl]-methylamine | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=C(C=C1)Cl)Cl)CN | C18H12Cl3N5
